US08563550B2
A mixture of 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole (1.0 g, 4.90 mmol) and 4-fluorophenol (2.2 g, 19.60 mmol) was heated under microwave irradiation at 135° C. for 3.5 hours. On cooling, the mixture was diluted with dichloromethane (7 mL), adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.2:9.8 to 2:8) to give 2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazole as a white solid (610 mg, 53% yield).

reactant | 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole | 4.90 mmol, 1.0 g | BrC1=NN2C(S1)=NC=C2 | C4H2BrN3S
reactant | 4-fluorophenol | 19.60 mmol, 2.2 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 2-(4-fluoro-phenoxy)-imidazo[2,1-b][1,3,4]thiadiazole | 610 mg, 53% yield | FC1=CC=C(OC2=NN3C(S2)=NC=C3)C=C1 | C10H6FN3OS
